US04271163
14.3 g (89.2 millimoles) of cyclohexylbenzene are added dropwise to 23.7 g (0.18 mole) of anhydrous aluminum chloride in 50 ml of nitrobenzene at 10°-15° C., whilst stirring. 10.0 g (89.2 millimoles) of 1,2-cyclopropanedicarboxylic acid anhydride are then added, a little at a time, at the same temperature and thereafter the mixture is stirred for 20 hours at room temperature, followed by 1 hour at 50° C. The solution is introduced into a mixture of 500 g of ice and 50 ml of concentrated hydrochloric acid. The nitrobenzene is removed by steam distillation and the solid which has precipitated is filtered off at 10° C. and dissolved in aqueous sodium carbonate solution. The solution is filtered and the filtrate is acidified with concentrated hydrochloric acid. The solid which precipitates is filtered off, washed with water and dried under reduced pressure at 50° C. 19.9 g (82% of theory) of cis-2-(p-cyclohexylbenzoyl)-cyclopropanecarboxylic acid are obtained as almost colorless crystals of melting point 162°-163° C. after recrystallization from methanol.

reactant | cyclohexylbenzene | 89.2 millimoles, 14.3 g | C1(CCCCC1)C1=CC=CC=C1 | C12H16
reactant | aluminum chloride | 0.18 mole, 23.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,2-cyclopropanedicarboxylic acid anhydride | 89.2 millimoles, 10.0 g | C12C(C1)C(=O)OC2=O | C5H4O3
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | nitrobenzene | 50 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | cis-2-(p-cyclohexylbenzoyl)-cyclopropanecarboxylic acid | 19.9 g, 82% | C1(CCCCC1)C1=CC=C(C(=O)[C@@H]2[C@@H](C2)C(=O)O)C=C1 | C17H20O3
